US07161024B2
B. Preparation of 4,6-Dimethylpyrimidine-5-carboxylic acid
The crude methyl 4,6-dimethylpyrimidine-5-carboxylate from the previous example to 20° C. was cooled and water (86 ml) was charged. 25% sodium hydroxide solution (75.5 ml) was charged and the batch was warmed to 50° C. for 90 minutes. The batch was cooled to between −5 and 0° C. and concentrated hydrochloric acid was charged slowly keeping the temperature within the range of −5 to +5° C. until a pH of 1.5 was reached. The batch was agitated for at least one hour at 0° C. The batch was filtered and the product washed with ice cold water (2×43 ml). The batch was dried under vacuum at 40–45° C. Yield of 4,6-dimethylpyrimidine-5-carboxylic acid was 59 g. m. p. 203–204° C., 1H NMR (D2O): δ2.57 (6H, s, CH3), δ9.00 (1H, s, ArH). 13H CMR (D2O): δ170.00, δ164.39, δ151.29, δ133.47, δ20.85. HR-MS; Calculated for C7H9N2O2, m/z=153.0664. Found 153.0667.

reactant | methyl 4,6-dimethylpyrimidine-5-carboxylate | CC1=NC=NC(=C1C(=O)OC)C | C8H10N2O2
reactant | sodium hydroxide | 75.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 86 ml | O | H2O
product | 4,6-Dimethylpyrimidine-5-carboxylic acid | CC1=NC=NC(=C1C(=O)O)C | C7H8N2O2
